US05610174
Synthesis of (±)-6-Methoxy-4a, 5,10,10a-tetrahydro-4H-naphtho[2,3-b][1,4]oxazin-3-one.
To a solution of 3-amino-5-methoxy-1,2,3,4-tetrahydronaphthalen-2-ol (1.7 g, 8.8 mmol) and triethylamine (1.5 ml, 11 mmol) in 100 ml of CH2Cl2 was added chloroacetyl chloride (1.0 g, 8.9 mmol) in 10 ml of CH2Cl2 dropwise at 0° C. The resulting solution was stirred for 1.5 h at 25° C. The reaction mixture was then diluted with EtOAc and washed with 1N aqueous HCl. Organic layer was dried over Na2SO4 and concentrated in vacuo, yielding an oil which corresponds to the amide. The oily residue was redissolved in 20 ml of THF, and NaH (0.35 g, 8.8 mmol) and tetrabutylammonium iodide (0.25 g, 0.67 mmol) were added into the solution at 0° C. The reaction mixture was stirred for 12 h at 25 ° C. It was diluted with EtOAc and washed with brine. The organic layer was dried over Na2SO4 and concentrated in vacuo, yielding an oily residue which was purified by column chromatography (50% CH2Cl2 -EtOAc) to provide 1.4 g (68%) of the desired product. 1H NMR (300 MHz, CDCl3): δ 2.45 (dd, 1H, J=10.5, 16.7 Hz), 2.85 (m, 1H), 3.11-3.34 (m, 2H), 3.65(m, 2H), 3.79 (s, 3H), 4.28 (AB q, 2H, 16.7 Hz), 6.68 (m, 2H), 7.07 (t, 1H, J=7.9 Hz).

reactant | 3-amino-5-methoxy-1,2,3,4-tetrahydronaphthalen-2-ol | 8.8 mmol, 1.7 g | NC1C(CC2=CC=CC(=C2C1)OC)O | C11H15NO2
reactant | triethylamine | 11 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 8.9 mmol, 1.0 g | ClCC(=O)Cl | C2H2Cl2O
reactant | NaH | 8.8 mmol, 0.35 g | [H-].[Na+]
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | 0.67 mmol, 0.25 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (±)-6-Methoxy-4a, 5,10,10a-tetrahydro-4H-naphtho[2,3-b][1,4]oxazin-3-one | 1.4 g, 68% | COC1=C2CC3C(OCC(N3)=O)CC2=CC=C1 | C13H15NO3
